US07060827B2
2,4-Dichloro-5-fluoropyrimidine (50 mg, 0.3 mmol) was dissolved in a mixture of MeOH (1 ml) and H2O (0.1 ml). 3-amino-4-nitroaniline (184 mg, 1.2 mmol) was added and the mixture was refluxed for 3 days (70° C. oil-bath temperature). The mixture was cooled to 22° C., concentrated to dryness under reduced pressure and subjected to column chromatography on silica gel (CHCl3-Acetone, 2:1) to give N2,N4-bis(3-amino-4-nitrophenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6+CD3OD): δ 8.21 (d, 1H, J=2.9 Hz), 7.89 (m, 3H), 7.56 (d, 1H, J=2.3 Hz), 7.01 (m, 1H), 6.81 (dd, 1H, J=2.3, 9.4 Hz); LCMS: purity: 91.1%; MS (m/e): 401.00 (M+, 100).

reactant | 2,4-Dichloro-5-fluoropyrimidine | 0.3 mmol, 50 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-amino-4-nitroaniline | 1.2 mmol, 184 mg | NC=1C=C(N)C=CC1[N+](=O)[O-] | C6H7N3O2
solvent | MeOH | 1 ml | CO | CH4O
solvent | H2O | 0.1 ml | O | H2O
product | N2,N4-bis(3-amino-4-nitrophenyl)-5-fluoro-2,4-pyrimidinediamine | NC=1C=C(C=CC1[N+](=O)[O-])NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)[N+](=O)[O-])N)F | C16H13FN8O4
